US04383945
A solution of (3R,4R)-3-benzyloxycarbonylamino-4-(2,2-dimethoxyethyl)azetidin-2-one (0.60 g) in a mixture of tetrahydrofuran (10 ml) and 0.5 N hydrochloric acid (2 ml) was heated at 50° C. for 1 hour. The mixture was cooled to 0° C. and 1 N aqueous sodium bicarbonate (1.2 ml) was added to the mixture at 0° C. After stirring for 5 minutes at 0° C., sodium borohydride (0.10 g) was added to the mixture at 0° C. After stirring for 15 minutes at 0° C., acetone (0.77 ml) and acetic acid (0.30 ml) were added to the mixture at 0° C. The mixture was evaporated in vacuo and the residue was dissolved in methylene chloride (60 ml). The solution was dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in xylene (20 ml) and the solution was evaporated in vacuo. The residue was chromatographed on silica gel (12 g) eluting with a mixture of methylene chloride and methanol (20:1-10:1) to give (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one (314 mg) as a crystalline solid.

reactant | (3R,4R)-3-benzyloxycarbonylamino-4-(2,2-dimethoxyethyl)azetidin-2-one | 0.60 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CC(OC)OC)=O | C15H20N2O5
reactant | sodium bicarbonate | 1 N, 1.2 ml | C([O-])(O)=O.[Na+]
reactant | sodium borohydride | 0.10 g | [BH4-].[Na+]
reactant | acetone | 0.77 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 0.5 N, 2 ml | Cl | ClH
solvent | acetic acid | 0.30 ml | C(C)(=O)O | C2H4O2
product | (3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)azetidin-2-one | 314 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N[C@@H]1CCO)=O | C13H16N2O4
